US07524841B2
4-(Aminomethyl)-4-fluoropiperidinecarboxylic acid tert-butyl ester (3.23 g, 13.9 mmol) was dissolved in acetonitrile (50 ml). A solution of thiocarbonyldiimidazole (2.73 g, 15.3 mmol) and triethylamine (4.27 ml, 30.6 mmol) in acetonitrile (20 ml) was then added dropwise at 0° C. of a period of 3 minutes. After stirring at room temperature for 1 hour, 3,4-diaminobenzoic acid methyl ester dihydrochloride (3.66 g, 15.3 mmol) was added to the reaction mixture, and the mixture was stirred at 50° C. for 5.5 hours. Diisopropylcarbodiimide (0.32 ml, 15.3 mmol) was further added and the mixture was stirred overnight at 50° C. Saturated brine was added to the obtained reaction mixture, extraction was performed with ethyl acetate (200 ml), and the organic layer was dried overnight over anhydrous sodium sulfate. After filtration with a desiccant (anhydrous sodium sulfate) and concentration of the filtrate, the obtained brown oil was purified by silica gel column chromatography (CH2Cl2/MeOH=49:1→19:1) to obtain 4-fluoro-4-({[5-(methoxycarbonyl)benzimidazol-2-yl]amino}methyl)piperidinecarboxylic acid tert-butyl ester. The yield was 0.838 g (60%).

reactant | 4-(Aminomethyl)-4-fluoropiperidinecarboxylic acid tert-butyl ester | 13.9 mmol, 3.23 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)CN | C11H21FN2O2
reactant | thiocarbonyldiimidazole | 15.3 mmol, 2.73 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | triethylamine | 30.6 mmol, 4.27 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-diaminobenzoic acid methyl ester dihydrochloride | 15.3 mmol, 3.66 g | Cl.Cl.COC(C1=CC(=C(C=C1)N)N)=O
reactant | Diisopropylcarbodiimide | 15.3 mmol, 0.32 ml | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 4-fluoro-4-({[5-(methoxycarbonyl)benzimidazol-2-yl]amino}methyl)piperidinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC=1NC2=C(N1)C=CC(=C2)C(=O)OC)F | C20H27FN4O4
